### ISSUE TITLE
`?` in a law body exports as a substituted default, so a rejected sample proves

### ISSUE THREAD

**Issue by jasisz** [jasisz/aver#839]
`?` in a law body lowers to `withDefault default`, exactly as a `verify` case did before #827. The sample theorems and the checked-domain conjunction — the parts that mirror what `aver verify` actually ran — therefore accept a sample that Aver rejects.

## Reproduction

```aver
module Law
    intent = "Every sample the law makes is true except the one whose `?` hits Err."
    exposes [safe]
    effects []

fn safe(n: Int) -> Result<Int, String>
    ? "Fails for negative input."
    match n < 0
        true -> Result.Err("negative")
        false -> Result.Ok(0)

verify safe law zero
    given a: Int = -1..0
    safe(a)? => 0
```

`aver verify`:

```
  14 |     safe(a)? => 0
     |     ^^^^^^^^^^^^^  verify-unexpected-err
Summary: 1 file | 1 block | 1/2 cases passed | 1 failed
```

The export emits:

```lean
theorem safe_law_zero_checked_domain : (((safe (-1)).withDefault default) = 0) ∧ (((safe 0).withDefault default) = 0) := by native_decide
theorem safe_law_zero_sample_1 : ((safe (-1)).withDefault default) = 0 := by native_decide
theorem safe_law_zero_sample_2 : ((safe 0).withDefault default) = 0 := by native_decide
```

`lake build` accepts all three, including `sample_1` — the one Aver rejects. `default` for `Int` is `0`, so the substituted value happens to equal the expected one.

The build does fail overall, but on the *universal* theorem at line 15, with `unsolved goals` — an auto-proof tactic that did not close. That is a different mechanism entirely, and it is not a gate: the universal statement is true in the exported model (`Err` becomes `default` becomes `0`, `Ok(0)` is `0`), so a law whose tactic does close leaves a fully green proof project over a red test suite.

## Same defect, one layer up

#819 fixed this lowering for function bodies and deliberately gated the fix to `do` contexts. #827 took the gate off verify cases. Law emission was left on the old form in both, so this is the last holdout of that family.

Unlike the verify-case version, this reaches three emitted statements rather than one: the universal theorem, `_checked_domain`, and every `_sample_N`.

## Note on the typechecker side

`check_verify_blocks` installs the synthetic `Result` return for law blocks too, not only for cases — which is why `safe(a)?` type-checks inside a law at all. So the language does intend `?` to be usable here; only the export disagrees about what it means.

## Fix shape

The same one #827 used: give the emitted statement a `do` context so `?` short-circuits, and compare against `Except.ok <expected>`. The machinery is already in place from #819. The extra work relative to #827 is that a law emits several statements and the universal one is quantified, so the lifted form has to survive `intro` and whatever auto-proof strategy follows — that is worth measuring before committing to the shape.
